US07745641B2
5-Hydroxyindole (200 mg, 1.50 mmol) was dissolved in DMF (2.0 mL), and the solution was added with potassium carbonate (622 mg, 4.50 mmol) and 4-(2-chloroethyl)morpholine hydrochloride (335 mg, 1.80 mmol), followed by stirring at 60° C. for 3 hours. Then, the mixture was added with potassium carbonate (622 mg, 4.50 mmol) and 4-(2-chloroethyl)morpholine hydrochloride (223 mg, 1.20 mmol), followed by stirring at 60° C. 5 hours. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was dissolved in acetonitrile (2.0 mL), and the solution was added with di-tert-butyldicarbonate (0.494 mL, 2.15 mmol) and DMAP (1.8 mg, 0.015 mmol), followed by stirring at room temperature for 20 hours. The solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography (hexane/ethyl acetate=19/1, 4/1, 7/3, 3/2) to obtain 5-[2-(morpholin-4-yl)ethoxy]-1-(tert-butoxycarbonyl)indole (369 mg, yield 71%).

reactant | 5-Hydroxyindole | 1.50 mmol, 200 mg | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | potassium carbonate | 4.50 mmol, 622 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 1.80 mmol, 335 mg | Cl.ClCCN1CCOCC1
reactant | potassium carbonate | 4.50 mmol, 622 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 1.20 mmol, 223 mg | Cl.ClCCN1CCOCC1
reactant | di-tert-butyldicarbonate | 2.15 mmol, 0.494 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.015 mmol, 1.8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | 5-[2-(morpholin-4-yl)ethoxy]-1-(tert-butoxycarbonyl)indole | 369 mg, yield 71% | N1(CCOCC1)CCOC=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C | C19H26N2O4
